Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
peanuts / hydrochlorothiazide / Penicillins
 
Attending: ___
 
___ Complaint:
left shoulder pain
 
Major Surgical or Invasive Procedure:
Left reverse total shoulder replacement ___, ___

 
History of Present Illness:
___ year old female with hx of left shoulder OA, rotator cuff 
tear and ongoing pain that has failed conservative treatment.
 
Past Medical History:
OSA, latent TB, Obesity, brain injury from MVA, pre-diabetes A1c 
5.8, renal cyst, Hep B, anemia, ITP->splenectomy ___, h/o 
malaria, depression, s/p ex lap appy, lap oophorectomy, robotic 
lap splenectomy
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
Well appearing in no acute distress  
Afebrile with stable vital signs  
Pain well-controlled  
Respiratory: CTAB  
Cardiovascular: RRR  
Gastrointestinal: NT/ND  
Genitourinary: Voiding independently  
Neurologic: Intact with no focal deficits  
Psychiatric: Pleasant, A&O x3  
Musculoskeletal Upper Extremity:  
* Aquacel dressing with scant serosanguinous drainage  
* Shoulder/arm full but soft  
* ___ grip strength  
* SILT, NVI distally  
* Fingers warm and well perfused
 
Pertinent Results:
___ 07:15AM BLOOD Hgb-10.0* Hct-32.0*
___ 09:20AM BLOOD WBC-4.7 RBC-3.66* Hgb-10.9* Hct-35.1 
MCV-96 MCH-29.8 MCHC-31.1* RDW-14.8 RDWSD-52.0* Plt ___
___ 07:15AM BLOOD Creat-0.8
 
Brief Hospital Course:
The patient was admitted to the orthopedic surgery service and 
was taken to the operating room for above described procedure. 
Please see separately dictated operative report for details. The 
surgery was uncomplicated and the patient tolerated the 
procedure well. Patient received perioperative IV antibiotics.

Post-operative course was remarkable for the following:
POD #1, patient was triggered for symptomatic orthostasis and 
given 500 mL fluid bolus. Hct 32. Patient reported inadequate 
pain control and was recommended to take Oxycodone more 
routinely.
POD #2, patient stated pain control improved and expressed 
readiness for discharge. 

Otherwise, pain was initially controlled with an intrascalene 
block followed by a transition to oral pain medications on 
POD#1.  The patient received Aspirin 81 mg twice daily while in 
house for DVT prophylaxis starting on POD#1.  The patient was 
voiding independently prior to discharge. The surgical dressing 
will remain on until POD#7 after surgery. Labs were checked 
throughout the hospital course and repleted accordingly. At the 
time of discharge the patient was tolerating a regular diet and 
feeling well.  The patient was afebrile with stable vital signs. 
 The patient's hematocrit was acceptable and pain was adequately 
controlled on an oral regimen. The operative extremity was 
neurovascularly intact and the dressing was intact. 

The patient's weight-bearing status is NON-weight bearing on the 
operative extremity. Sling on at all times. ___ remove for 
elbow/wrist and pendulum exercises.
 
Ms. ___ is discharged to home with services in stable 
condition.
 
Medications on Admission:
1. Acetaminophen 500 mg PO Q8H:PRN Pain - Mild/Fever 
2. Simvastatin 20 mg PO QPM 
3. diclofenac sodium 1 % topical QID pain 
4. Triamterene-HCTZ (37.5/25) 1 CAP PO DAILY 
5. Aspirin 81 mg PO DAILY 
6. Pyridoxine 100 mg PO DAILY 
7. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1.  Docusate Sodium 100 mg PO BID  
2.  Gabapentin 300 mg PO TID  
3.  OxyCODONE (Immediate Release) 2.5-5 mg PO Q4H:PRN Pain - 
Moderate 
4.  Pantoprazole 40 mg PO Q24H 
Continue while on 4-week course of Aspirin 81 mg twice daily.  
5.  Senna 8.6 mg PO BID  
6.  Acetaminophen 1000 mg PO Q8H  
7.  Aspirin EC 81 mg PO BID 
Resume Aspirin 81 mg every day after 4 week course of Aspirin 81 
mg twice daily.  
8.  Pyridoxine 100 mg PO DAILY  
9.  Simvastatin 20 mg PO QPM  
10.  Triamterene-HCTZ (37.5/25) 1 CAP PO DAILY  
11.  Vitamin D 1000 UNIT PO DAILY  
12. HELD- diclofenac sodium 1 % topical QID pain  This 
medication was held. Do not restart diclofenac sodium until 
you've completed your course of Aspirin

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
left shoulder OA

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
1. Please return to the emergency department or notify your 
physician if you experience any of the following: severe pain 
not relieved by medication, increased swelling, decreased 
sensation, difficulty with movement, fevers greater than 101.5, 
shaking chills, increasing redness or drainage from the incision 
site, chest pain, shortness of breath or any other concerns.
 
2. Please follow up with your primary physician regarding this 
admission and any new medications and refills. 
 
3. Resume your home medications unless otherwise instructed.
 
4. You have been prescribed narcotic pain medication. You may 
call ___ to refill this medication as needed.  Please 
review our narcotics policy which is attached. Use the 
medication only as prescribed. Take it with food. Please do not 
drive, operate heavy machinery, or drink alcohol while taking 
these medications. As your pain decreases, take fewer tablets 
and increase the time between doses. 

This medication can cause constipation, so you should drink 
plenty of water daily and take a stool softener (such as Colace) 
as needed to prevent this side effect.  Call your surgeons 
office 3 days before you are out of medication so that it can be 
refilled.  These medications cannot be called into your pharmacy 
and must be picked up in the clinic or mailed to your house.  
Please allow an extra 2 days if you would like your medication 
mailed to your home.
 
5. You may not drive a car until cleared to do so by your 
surgeon.
 
6. Please call your surgeon's office to schedule or confirm your 
follow-up appointment in two (___) weeks.
 
7. SWELLING: Ice your shoulder joint 20 minutes at a time, 
especially after ROM exercises and when you start physical 
therapy. Do not place ice directly on the skin. Please DO NOT 
take any non-steroidal anti-inflammatory medications (NSAIDs 
such as Celebrex, ibuprofen, Advil, Aleve, Motrin, naproxen etc) 
until cleared by your physician. This may effect your healing.
 
8. ANTICOAGULATION: Please continue your Aspirin 81 mg twice 
daily for four (4) weeks to help prevent deep vein thrombosis 
(blood clots).  Continue Pantoprazole daily while on Aspirin to 
prevent GI upset (x 4 weeks).  If you were taking Aspirin prior 
to your surgery, take it at 81 mg twice daily until the end of 
the 4 weeks, then you can go back to your normal dosing.
 
9. WOUND CARE: Please remove Aquacel dressing on POD#7 after 
surgery. It is okay to shower after surgery but no tub baths, 
swimming, or submerging your incision until after your four (4) 
week checkup. Please place a dry sterile dressing on the wound 
after aqaucel is removed each day if there is drainage, 
otherwise leave it open to air. Check wound regularly for signs 
of infection such as redness or thick yellow drainage.  Staples 
will be removed by/at your rehab/follow-up visit in ___ weeks.
  
10. ACTIVITY: NON-Weight bearing on the operative extremity. You 
MUST wear your sling for 6 weeks. You may come out of your sling 
to perform elbow and wrist exercises and shower, but must 
replace the sling upon completion. You MAY do pendulum 
exercises. Please read the discharge paperwork for home 
exercises/pendulums you can perform upon discharge from the 
hospital. 
Physical Therapy:
NON-Weight bearing on the operative extremity
Wear your sling for 6 weeks
Come out of your sling to perform elbow and wrist exercises and 
shower, but must replace the sling upon completion
Do pendulum exercises
Treatments Frequency:
remove aquacel POD#7 after surgery
apply dry sterile dressing daily if needed after aquacel 
dressing is removed
wound checks daily after aquacel removed
staple removal and replace with steri-strips at follow up visit 
in clinic
 
Followup Instructions:
___